* source LAB7
R_R1         N00120 N00061  10k  
C_C4         N01790 N01840  100n   
C_C1         0 N00061  100n   
R_R4         0 N01840  10k  
C_C5         0 N02450  100n   
V_V4         N01752 0 DC 0Vdc AC 2Vac 
V_V1         N00120 0 DC 0Vdc AC 2Vac 
V_V5         N02580 0  
+PULSE 2 -2 0 1n 1n 250u 500u
R_R6         0 N02498  10k  
V_V3         N00560 0  
+PULSE 4 -4 0 1n 1n 5m 10m
R_R2         N00560 N00614  150k  
C_C6         N02450 N02498  100n   
R_R3         N01752 N01790  10k  
C_C2         0 N00614  100n   
R_R5         N02580 N02450  10k  
C_C3         0 N01790  100n   
